* PSPICE comma-separated resistor TC parameter not supported by this ngspice build
.option ngbehavior=ps
.temp 75
V1 in 0 5
R1 in out 1k TC=0.01,0.001
C1 out 0 1u IC=0
.print tran v(out)
.tran 1u 20u
.end
